US07705004B2
A mixture of 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine (150 mg, 0.34 mmol), sulfanilamide (125 mg, 0.73 mmol) and trimethylsilyl chloride (TMSCl) (0.100 mL, 0.79 mmol) inn-butyl alcohol (4 mL) was heated at 116° C. for 96 h. The mixture was then purified by HPLC to give 4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide (110 mg).

reactant | 2-chloro-N-(1H-indazol-6-yl)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-4-amine | 0.34 mmol, 150 mg | ClC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2)NC2=CC=C1C=NNC1=C2 | C20H15ClN6O2S
reactant | sulfanilamide | 0.73 mmol, 125 mg | S(=O)(C1=CC=C(C=C1)N)(=O)N | C6H8N2O2S
reactant | trimethylsilyl chloride | 0.79 mmol, 0.100 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | butyl alcohol | 4 mL | C(CCC)O | C4H10O
product | 4-(4-(1H-indazol-6-ylamino)-7-tosyl-7H-pyrrolo[2,3-d]pyrimidin-2-ylamino)benzenesulfonamide | 110 mg | N1N=CC2=CC=C(C=C12)NC=1C2=C(N=C(N1)NC1=CC=C(C=C1)S(=O)(=O)N)N(C=C2)S(=O)(=O)C2=CC=C(C)C=C2 | C26H22N8O4S2
